US05888531
(S)-4-benzyloxycarbonylaminoacetyl-3-{3-(6-tert-butoxycarbonylaminohexanoylamino)propyl}-2-oxopiperazine-1-acetic acid
(S)-4-benzyloxycarbonylaminoacetyl-3-(3-tert-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid tert-butyl ester as obtained in Reference Example 2 (0.6 g, 1.07 mmol) was dissolved in 3.0 ml of trifluoroacetic acid, followed by stirring at room temperature for 30 minutes, after which the reaction mixture was concentrated under reduced pressure. Separately, 6-tert-butoxyaminocaproic acid (0.26 g, 1.12 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.22 g, 1.14 mmol) and 1-hydroxybenzotriazole (0.15 g, 1.12 mmol) were dissolved in 2.1 ml of DMF, followed by stirring for 1 hour. To this solution, of the above residue and 2.1 ml of a DMF solution comprising triethylamine (0.3 ml, 2.14 mmol) was added, followed by stirring at room temperature for 4 hours. The reaction mixture was diluted with ethyl acetate and washed with 5% aqueous potassium hydrogen sulfate and saturated aqueous sodium bicarbonate. The organic layer was concentrated under reduced pressure; the residue was purified by silica gel column chromatography (ethyl acetate/methanol/acetic acid=20/10/0.6) to yield 0.42 g (63.3%) of the title compound as a colorless amorphous powder.

reactant | (S)-4-benzyloxycarbonylaminoacetyl-3-(3-tert-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)CCCNC(=O)OC(C)(C)C)=O)=O | C28H42N4O8
reactant | 6-tert-butoxyaminocaproic acid | 1.12 mmol, 0.26 g | C(C)(C)(C)ONCCCCCC(=O)O | C10H21NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 1.14 mmol, 0.22 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.12 mmol, 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.14 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 2.1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.1 ml | CN(C)C=O | C3H7NO
product | (S)-4-benzyloxycarbonylaminoacetyl-3-{3-(6-tert-butoxycarbonylaminohexanoylamino)propyl}-2-oxopiperazine-1-acetic acid | 0.42 g, 63.3% | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CCCNC(CCCCCNC(=O)OC(C)(C)C)=O | C30H45N5O9
